US08871767B2
ethyl-3-[3-[[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]carbamoyl]phenyl]prop-2-enoate
To a mixture of 3-bromo-N-[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]benzamide (0.126 g, 0.25 mmol), Ethyl acrylate (0.272 mL, 2.5 mmol), palladium(II) acetate (2.8 mg, 0.01 mmol), tri(o-tolyl)phosphine (0.0152 g, 0.05 mmol) in DMF (1.45 mL) is added DIPEA (0.174 mL, 1 mmol). The mixture is degassed with N2 then sealed and heated at 110° C. for 18 hours. The reaction mixture is cooled, saturated aqueous NaHCO3 (50 mL) added and extracted with EtOAc (×3). Organic layers are combined and washed with water, NaHCO3, brine, then dried, concentrated and purified by silica gel chromatography (0-100% EtOAc in Hexanes) to give the title compound (0.040 g). LCMS (m/z)=526.6 [M+H]+, tR=2.92 min.

reactant | 3-bromo-N-[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]benzamide | 0.25 mmol, 0.126 g | BrC=1C=C(C(=O)NC2=NN3C(C=C2)=NC(=C3)C3=CC(=C(C=C3)C)NC(C(C)(C)C)=O)C=CC1 | C25H24BrN5O2
reactant | Ethyl acrylate | 2.5 mmol, 0.272 mL | C(C=C)(=O)OCC | C5H8O2
reactant | tri(o-tolyl)phosphine | 0.05 mmol, 0.0152 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | DIPEA | 1 mmol, 0.174 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.45 mL | CN(C)C=O | C3H7NO
catalyst | palladium(II) acetate | 0.01 mmol, 2.8 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | ethyl-3-[3-[[2-[3-(2,2-dimethylpropanoylamino)-4-methyl-phenyl]imidazo[2,1-f]pyridazin-6-yl]carbamoyl]phenyl]prop-2-enoate | 0.040 g | C(C)OC(C=CC1=CC(=CC=C1)C(NC1=NN2C(C=C1)=NC(=C2)C2=CC(=C(C=C2)C)NC(C(C)(C)C)=O)=O)=O | C30H31N5O4
